US06326369B1
Ethyl 4-(3-chloropropoxy)benzoate
The mixture of ethyl 4-hydroxybenzoate(50.0 g), 1-bromo-3-chloropropane (56.8 g), and potassium carbonate (125 g) in acetonitrile (500 ml) was stirred 40° C. for 48 hr. The reaction mixture was concentrated and the residue was diluted with water, then extracted with diethyl ether. The organic layer was washed with water and saturated aqueous sodium chloride and dried. The solvent was removed in vacuo. The residue was purified by alumina column chromatography (hexane to hexane:ethyl acetate=20:1) to yield the entitled compound (66.5 g) as an oil.

reactant | ethyl 4-hydroxybenzoate | 50.0 g | OC1=CC=C(C(=O)OCC)C=C1 | C9H10O3
reactant | 1-bromo-3-chloropropane | 56.8 g | BrCCCCl | C3H6BrCl
reactant | potassium carbonate | 125 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 500 ml | C(C)#N | C2H3N
product | Ethyl 4-(3-chloropropoxy)benzoate | 66.5 g | ClCCCOC1=CC=C(C(=O)OCC)C=C1 | C12H15ClO3
